US04433152
A mixture of 2 g of 1-amidino-4-piperidinepropionic acid hydrochloride, 4.05 g of bis-(p-isopropylphenyl)sulfite prepared from p-isopropylphenol and thionyl chloride, 10 ml of dry dimethylformamide and 5 ml of dry pyridine was stirred at room temperature for 1 hour. The solvent was removed, and ether was added to the residue to give crystals. The crystals were washed with ether and then with ethyl acetate and recrystallized from isopropyl alcohol-ethyl acetate-ether to obtain 2.9 g (yield: 97%) of p-isopropylphenyl 1-amidino-4-piperidinepropionate hydrochloride as colorless needles having a melting point of 119° to 121° C.

reactant | 1-amidino-4-piperidinepropionic acid hydrochloride | 2 g | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)O
reactant | bis-(p-isopropylphenyl)sulfite | 4.05 g | C(C)(C)C1=CC=C(C=C1)OS(=O)OC1=CC=C(C=C1)C(C)C | C18H22O3S
reactant | p-isopropylphenol | C(C)(C)C1=CC=C(C=C1)O | C9H12O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | p-isopropylphenyl 1-amidino-4-piperidinepropionate hydrochloride | 2.9 g, yield: 97% | Cl.C(N)(=N)N1CCC(CC1)CCC(=O)OC1=CC=C(C=C1)C(C)C | InChI=1S/C18H27N3O2.ClH/c1-13(2)15-4-6-16(7-5-15)23-17(22)8-3-14-9-11-21(12-10-14)18(19)20;/h4-7,13-14H,3,8-12H2,1-2H3,(H3,19,20);1H
